US06294555B1
Preparation of 4-amino-5-chloro-2-methoxy-N-[1-(1-methylcarbamoyl-4-piperidinylmethyl)-4-piperidinyl]benzamide
To 4-amino-5-chloro-2-methoxy-N-[1-(1-phenoxycarbonyl-4-piperidinylmethyl)-4-piperidinyl]benzamide (880 mg), which is prepared in a similar manner as in Example 1 except that phenyl chloroformate is used instead of dimethylcarbamoyl chloride, is added a 30% solution of methylamine in ethanol (20 ml), and the mixture is heated at 110° C. for 8 hours in a sealed tube. The mixture is concentrated to dryness under reduced pressure, and to the residue is added chloroform. The solution is washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform:methanol=20:110:1) to give the desired compound (200 mg) as amorphous.

reactant | 4-amino-5-chloro-2-methoxy-N-[1-(1-phenoxycarbonyl-4-piperidinylmethyl)-4-piperidinyl]benzamide | 880 mg | NC1=CC(=C(C(=O)NC2CCN(CC2)CC2CCN(CC2)C(=O)OC2=CC=CC=C2)C=C1Cl)OC | C26H33ClN4O4
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | methylamine | CN | CH5N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-amino-5-chloro-2-methoxy-N-[1-(1-methylcarbamoyl-4-piperidinylmethyl)-4-piperidinyl]benzamide | 200 mg | NC1=CC(=C(C(=O)NC2CCN(CC2)CC2CCN(CC2)C(NC)=O)C=C1Cl)OC | C21H32ClN5O3
